US06310217B1
E. (E)-3-{[2-(Carboxymethyl)-4-dodecanoyl-3,5-dimethyl-pyrrol-1-yl]methyl}cinnamic acid
A mixture of 55 mg (0.1 mmol) of ethyl (E)-3-({3-dodecanoyl-5-[(ethoxycarbonyl)methyl]-2,4-dimethyl-pyrrol-1-yl}methyl)cinnamate, 12 ml of ethanol and 4 ml of 10% strength aqueous KOH solution is boiled for 1 h. Cooling is followed by dilution with water, acidification with dilute HCl and extraction with ether. The organic phase is washed with dilute HCl, dried over Na2SO4 and concentrated. The product is recrystallized from methanol/H2O.

reactant | ethyl (E)-3-({3-dodecanoyl-5-[(ethoxycarbonyl)methyl]-2,4-dimethyl-pyrrol-1-yl}methyl)cinnamate | 0.1 mmol, 55 mg | C(CCCCCCCCCCC)(=O)C1=C(N(C(=C1C)CC(=O)OCC)CC=1C=C(/C=C/C(=O)OCC)C=CC1)C | C34H49NO5
reactant | KOH | [OH-].[K+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | (E)-3-{[2-(Carboxymethyl)-4-dodecanoyl-3,5-dimethyl-pyrrol-1-yl]methyl}cinnamic acid | C(=O)(O)CC=1N(C(=C(C1C)C(CCCCCCCCCCC)=O)C)CC=1C=C(/C=C/C(=O)O)C=CC1 | C30H41NO5
